US09403810B2
Step 4: 4-Amino-2-cyclohexyl-1,5-dimethyl-1H-pyrazol-3(2H)-one
To 2-cyclohexyl-1,5-dimethyl-4-nitro-1H-pyrazol-3(2H)-one (415 g, 1.73 mol) in MeOH (4500 ml) and THF (4500 ml) was added 10% Pd/C (70 g) and the reaction mixture was hydrogenated at 0.1 bar and RT for 57.5 h. The resulting mixture was filtered through a pressure strainer and washed with methanol (1×1 L) and THF (2×1 L). The filtrate was concentrated under reduced pressure to give a dark red oil. The oil was dissolved immediately in TBME (4 L), concentrated under reduced pressure to ca. 2 L and seeded (100 mg). The suspension was stirred for 2 h at RT and cooled in an ice bath for 1 hr. The solid was collected by filtration and washed with ice cold TBME in portionwise until the filtrate was colourless and dried under vacuum to give the title compound;

reactant | 2-cyclohexyl-1,5-dimethyl-4-nitro-1H-pyrazol-3(2H)-one | 1.73 mol, 415 g | C1(CCCCC1)N1N(C(=C(C1=O)[N+](=O)[O-])C)C | C11H17N3O3
solvent | MeOH | 4500 ml | CO | CH4O
solvent | THF | 4500 ml | C1CCOC1 | C4H8O
solvent | TBME | 4 L | CC(C)(C)OC | C5H12O
catalyst | Pd/C | 70 g | [Pd] | Pd
product | 4-Amino-2-cyclohexyl-1,5-dimethyl-1H-pyrazol-3(2H)-one | NC=1C(N(N(C1C)C)C1CCCCC1)=O | C11H19N3O
